Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMH of AFib, Stage IV poorly differentiated carcinoma of
unknown primary, presented to ED with nausea/vomiting and fever

Patient reported that she received every cycle of pembrolizumab
without any incident.  She noted that her last cycle was 3 days
prior and has noted that she has been well since then. However
she developed acute onset vomiting which awoke her from sleep on
the morning of admission which was nonbilious, non-bloody.  She
noted that it was not associated with significant abdominal pain
or prolonged nausea beforehand.  Denied any association with
diarrhea and noted that she has not had a bowel movement in over
24 hours.  Reported that she had subjective fever at home and
temperature recorded at 102 though it was an old thermometer. 
She noted that she went out to eat recently and had chicken
piccata at a local restaurant which she enjoys and did not had
any rice.  She noted that no one in her party had the same meal
as her and no one had any GI symptoms.  She denied any travel 
out
of the country but recently went to ___ City. 

Otherwise denied sore throat, cough, nausea, abdominal pain,
rash, sick contacts

In the ED, initial vitals: 99.5 111 114/74 18 94% RA. WBC 11.4,
Hgb 13.8, plt 356, LFTs wnl, CHEM w/ HCO3 21, Lactate 2.4
normalized on repeat. UA 2 WBC neg nitr small leuk
 
CXR:
No focal consolidation or acute cardiopulmonary abnormality.

CT A/P with contrast:
1. No intra-abdominal or pelvic abnormalities identified to
suggest infectious etiology below the diaphragm.
2. Focal right basilar consolidation potentially atelectasis
though infection is not excluded.
 
Patient was given normal saline, levofloxacin, Zofran and
admitted for further care. 
 
Past Medical History:
Atrial Fibrillation 
Osteoporosis
Hypothyroidism
 
 
Social History:
___
Family History:
Father with lung and prostate cancer, he died
___ age ___ from lung cancer after surviving prostate cancer,
he was a smoker.  Her mom is ___, alive, also has afib.  2
sisters, both healthy. Brother died of neuroblastoma age ___. 
Children are all healthy.    

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:  ___ 0352 Temp: 98.5 PO BP: 111/74 HR: 88 RR: 16 O2
sat: 94% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Sitting in bed, appears comfortable but tired, no acute
distress, pleasant
EYES: Pupils equally round reactive to light, anicteric sclera, 
HEENT:  oropharynx clear, MMM
NECK: Supple, normal range of motion
LUNGS: Clear to auscultation bilaterally no wheezes rales or
rhonchi, normal respiratory rate, no increased work of 
breathing,
no cough
CV: Regular rate and rhythm no murmurs, normal distal perfusion
no edema
ABD: Soft, nondistended, nontender, normoactive bowel sounds
GENITOURINARY: No Foley or suprapubic tenderness
EXT: Warm, no deformity, normal muscle bulk
SKIN: Warm dry, no rash
NEURO: Alert and oriented x3, fluent speech
ACCESS: Peripheral IV

DISCHARGE PHYSICAL EXAM:  
GENERAL: Sitting in bed, appears comfortable but tired, no acute
distress, pleasant
EYES: Pupils equally round reactive to light, anicteric sclera, 
HEENT:  oropharynx clear, MMM
NECK: Supple, normal range of motion
LUNGS: Clear to auscultation bilaterally no wheezes rales or
rhonchi, normal respiratory rate, no increased work of 
breathing,
no cough
CV: Regular rate and rhythm no murmurs, normal distal perfusion
no edema
ABD: Soft, nondistended, nontender, normoactive bowel sounds
GENITOURINARY: No Foley or suprapubic tenderness
EXT: Warm, no deformity, normal muscle bulk
SKIN: Warm dry, no rash
NEURO: Alert and oriented x3, fluent speech
ACCESS: Peripheral IV
 
Pertinent Results:
___ 07:07PM   LACTATE-2.0
___ 04:47PM URINE  HOURS-RANDOM
___ 04:47PM URINE  HOURS-RANDOM
___ 04:47PM URINE  UHOLD-HOLD
___ 04:47PM URINE  GR HOLD-HOLD
___ 04:47PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:47PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-7.5 
LEUK-SM*
___ 04:47PM URINE  RBC-2 WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-2 TRANS EPI-1
___ 04:47PM URINE  MUCOUS-RARE*
___ 04:00PM   LACTATE-2.4*
___ 03:51PM   GLUCOSE-121* UREA N-15 CREAT-0.7 SODIUM-137 
POTASSIUM-4.8 CHLORIDE-95* TOTAL CO2-21* ANION GAP-21*
___ 03:51PM   ALT(SGPT)-14 AST(SGOT)-21 ALK PHOS-85 TOT 
BILI-0.6
___ 03:51PM   LIPASE-15
___ 03:51PM   ALBUMIN-5.0
___ 03:51PM   WBC-11.4* RBC-4.61 HGB-13.8 HCT-43.0 MCV-93 
MCH-29.9 MCHC-32.1 RDW-14.0 RDWSD-47.8*
___ 03:51PM   NEUTS-93.1* LYMPHS-1.3* MONOS-4.7* EOS-0.0* 
BASOS-0.5 IM ___ AbsNeut-10.58* AbsLymp-0.15* AbsMono-0.54 
AbsEos-0.00* AbsBaso-0.06
___ 03:51PM   PLT COUNT-___ PMH of AFib, Stage IV poorly differentiated carcinoma of 
unknown primary, presented to ED with nausea/vomiting 
(non-bloody, non-bilious, 4 episodes) and fever (documented at 
home, but not here). She had a CT A/P done in the ED without any 
acute findings. Her lactate was 2.4 and downtrended to 2.0 with 
IV fluids. She received one dose of Zofran in the ED with 
resolution of her nausea. On the morning of discharge, her only 
complaint was fatigue attributed to sleeping poorly while in the 
hospital, and she felt ready to return home, as she was back to 
her baseline. Her symptoms were attributed to either a viral 
gastroenteritis or food-borne illness. She tolerated a regular 
diet prior to discharge.  There are no changes made to her 
medication list.  She will follow-up with Dr. ___ as scheduled.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. LORazepam 1 mg PO QHS:PRN nausea/anxiety 
3. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild/Fever 
4. Senna 17.2 mg PO DAILY:PRN Constipation - First Line 
5. Diazepam 2 mg PO ASDIR anxiety 
6. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 

 
Discharge Medications:
1.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Diazepam 2 mg PO ASDIR anxiety  
3.  Levothyroxine Sodium 75 mcg PO DAILY  
4.  LORazepam 1 mg PO QHS:PRN nausea/anxiety  
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
6.  Senna 17.2 mg PO DAILY:PRN Constipation - First Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral gastroenteritis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

You were admitted to the hospital after experiencing nausea and 
vomiting at home.  This resolved with a dose of Zofran and a CT 
scan did not show evidence of any intra-abdominal process.  You 
were admitted to the oncology service here and your symptoms 
resolved quickly.  We think this may be the result of a viral 
infection, which should get better with supportive care. Please 
return to the ED should you experience any of the warning signs 
listed below. 

Sincerely,
Your ___ Team
 
Followup Instructions:
___